US07071208B2
To a solution of 2-cyano-3-(ethoxycarbonylmethoxy)pyridine (3.2 g, 15.52 mmol) in 180 ml of ethanol is added concentrated aqueous HCl (2.92 ml, 35 mmol) and 10% palladium on charcoal (1.5 g). After stirring for 4 hours under a hydrogen pressure of 4 bar, the mixture is filtered through celite, rinsed with ethanol and evaporated. The 2-aminomethyl-3-(ethoxycarbonyhnethoxy)pyridine dihydrochloride thus obtained is sufficiently pure and used in the next step without further purification. Yield: 3.82 g (100%).

reactant | 2-cyano-3-(ethoxycarbonylmethoxy)pyridine | 15.52 mmol, 3.2 g | C(#N)C1=NC=CC=C1OCC(=O)OCC | C10H10N2O3
reactant | HCl | 35 mmol, 2.92 ml | Cl | ClH
solvent | ethanol | 180 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
product | 2-aminomethyl-3-(ethoxycarbonyhnethoxy)pyridine dihydrochloride | Cl.Cl.NCC1=NC=CC=C1OCC(=O)OCC | InChI=1S/C10H14N2O3.2ClH/c1-2-14-10(13)7-15-9-4-3-5-12-8(9)6-11;;/h3-5H,2,6-7,11H2,1H3;2*1H
